US04065563
5-(4-Isothiocyanophenyl)-3-(2-thienyl)-1,2,4-oxadiazole
To a solution of 1.2 g (0.005 mole) of 5-(4-aminophenyl)-3-(2-thienyl)-1,2,4-oxadiazole in 150 ml of dry tetrahydrofuran containing 0.49 g of triethylamine, 0.56 g (0.005 mole) of thiophosgene is added and the mixture stirred at room temperature for 3 hours. After filtration, the solution is evaporated in vacuo to give the crude product. It is crystallized from petroleum ether to give 0.7 g (50%) of the title compound, m.p. 161°-162°.

reactant | 5-(4-aminophenyl)-3-(2-thienyl)-1,2,4-oxadiazole | 0.005 mole, 1.2 g | NC1=CC=C(C=C1)C1=NC(=NO1)C=1SC=CC1 | C12H9N3OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 0.005 mole, 0.56 g | C(=S)(Cl)Cl | CCl2S
solvent | tetrahydrofuran | 150 ml, 0.49 g | O1CCCC1 | C4H8O
product | 5-(4-Isothiocyanophenyl)-3-(2-thienyl)-1,2,4-oxadiazole | 0.7 g, 50% | N(=C=S)C1=CC=C(C=C1)C1=NC(=NO1)C=1SC=CC1 | C13H7N3OS2
